US04228179
38 g. N-acetyl-3-oxo-2-azaspiro[4,6]undecane are heated to 60° C. for 6 hours in a solution of 40 g. potassium carbonate in 400 ml. 80% aqueous ethanol. The reaction mixture is then acidified with dilute hydrochloric acid, the ethanol is stripped off in a vacuum and the aqueous residue is extracted with methylene chloride. The residue obtained after evaporation of the solvent gives, upon vacuum distillation, 3-oxo-2-azaspiro[4,6]undecane in the form of a colourless syrup; b.p. 125°-135° C./10-3 mm.Hg. After crystallisation from diisopropyl ether, the compound melts at 70°-74° C.

reactant | N-acetyl-3-oxo-2-azaspiro[4,6]undecane | C(C)(=O)N1CC2(CC1=O)CCCCCC2 | C12H19NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 3-oxo-2-azaspiro[4,6]undecane | O=C1NCC2(C1)CCCCCC2 | C10H17NO
